US04115568
(t) 7-Chloro-9,10-dihydro-4H-thieno[3,2-b][1,5]benzodiazepin-10-one
Methyl 3-(2-amino-4-chloroanilino)-thiophene-2-carboxylate, m.p. 255°-256° C. (EtOAc).

reactant | Methyl 3-(2-amino-4-chloroanilino)-thiophene-2-carboxylate | NC1=C(NC2=C(SC=C2)C(=O)OC)C=CC(=C1)Cl | C12H11ClN2O2S
reactant | Ethyl 2-(2-amino-4-fluoroanilino)4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate | NC1=C(NC2=C(C3=C(S2)CCCC3)C(=O)OCC)C=CC(=C1)F | C17H19FN2O2S
product | 7-Chloro-9,10-dihydro-4H-thieno[3,2-b][1,5]benzodiazepin-10-one | ClC=1C=CC2=C(NC(C3=C(N2)C=CS3)=O)C1 | C11H7ClN2OS
